* NGSPICE file created from INVx1.ext - technology: asap5

.global Vdd Gnd 

.subckt INVx1
M1000 a_30_18# a_14_90# a_0_90# w_0_65# pmos_lvt w=0.49u l=0.14u
+  ad=44.8f pd=0.92u as=49.59999f ps=0.96u
M1001 a_30_18# a_14_18# a_0_18# Gnd nmos_lvt w=0.49u l=0.14u
+  ad=44.8f pd=0.92u as=49.59999f ps=0.96u
.ends

