* NGSPICE file created from INVx2.ext - technology: asap5

.global Vdd 0 

.subckt INVx2
M1000 a_30_14# a_14_78# a_0_78# w_0_65# pmos_lvt w=0.65u l=0.14u
+  ad=67.2f pd=1.24u as=75.2f ps=1.28u
M1001 a_30_14# a_14_14# a_0_14# 0 nmos_lvt w=0.65u l=0.14u
+  ad=67.2f pd=1.24u as=75.2f ps=1.28u
.ends

