* NGSPICE file created from INVx4.ext - technology: asap5

.global Vdd 0 

.subckt INVx4
M1000 a_30_14# a_14_76# a_0_76# w_0_65# pmos_lvt w=0.67u l=0.14u
+  ad=69.99999f pd=1.28u as=78.39999f ps=1.32u
M1001 a_30_14# a_14_14# a_0_14# 0 nmos_lvt w=0.67u l=0.14u
+  ad=69.99999f pd=1.28u as=78.39999f ps=1.32u
.ends

