* NGSPICE file created from INVx1.ext - technology: asap5

.option scale=10n

M1000 a_30_18# a_14_90# a_0_90# w_0_65# pmos_lvt w=49 l=14
+  ad=0.448n pd=92u as=0.496n ps=96u
M1001 a_30_18# a_14_18# a_0_18# Gnd nmos_lvt w=49 l=14
+  ad=0.448n pd=92u as=0.496n ps=96u
C0 a_0_18# 0 0.11131p $ **FLOATING
C1 a_14_50# 0 48.4f $ **FLOATING
C2 a_30_18# 0 0.16786p $ **FLOATING
C3 a_0_90# 0 0.11093p $ **FLOATING
