* NGSPICE file created from /Users/bruce/CLAUDE/asap5/stdcells/layouts/MUX21x1.ext - technology: asap5

.global Vdd 0 

.subckt x/Users/bruce/CLAUDE/asap5/stdcells/layouts/MUX21x1
M1000 a_46_10# a_30_10# VSS 0 nmos_lvt w=0.45u l=0.16u
+  ad=89.99999f pd=1.3u as=0.135p ps=1.5u
M1001 D1 a_184_75# S w_0_65# pmos_lvt w=0.55u l=0.16u
+  ad=99f pd=1.46u as=0.198p ps=1.27u
M1002 D1 a_184_10# S 0 nmos_lvt w=0.45u l=0.16u
+  ad=81f pd=1.26u as=0.162p ps=1.17u
M1003 VDD a_250_75# Y w_0_65# pmos_lvt w=0.55u l=0.16u
+  ad=0.11p pd=1.5u as=0.121p ps=1.54u
M1004 VSS a_250_10# Y 0 nmos_lvt w=0.45u l=0.16u
+  ad=89.99999f pd=1.3u as=99f ps=1.34u
M1005 S a_96_75# D0 w_0_65# pmos_lvt w=0.55u l=0.16u
+  ad=0.198p pd=1.27u as=99f ps=1.46u
M1006 S a_96_10# D0 0 nmos_lvt w=0.45u l=0.16u
+  ad=0.162p pd=1.17u as=81f ps=1.26u
M1007 a_46_10# a_30_75# VDD w_0_65# pmos_lvt w=0.55u l=0.16u
+  ad=0.11p pd=1.5u as=0.165p ps=1.7u
C0 a_46_10# D0 3.73253f
C1 S Y 6.33276f
C2 a_46_10# S 16.2083f
C3 D0 S 3.58669f
C4 VDD a_46_10# 0.01327f
C5 S VSS 0.06155f
C6 a_46_10# D1 0.02848f
C7 S D1 4.82491f
.ends

